US06248756B1
Step B: 2-[3-(4-cyanobenzyl)-3H-imidazol-1-yl]-N-(4-cyanobenzyl)-N-(1-phenylpiperidin-4-yl)acetamide hydrochloride
4-Cyanobenzyl(1-phenylpiperidin-4-yl)amine (75 mg, 0.26 mmol), lithium [3-(4-cyanobenzyl)-3H-imidazol-4-yl]acetate (70 mg, 0.28 mmol), 1-hydroxybenzotriazole hydrate (52 mg, 0.38 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (99 mg, 0.52 mmol), and N,N-diisopropylethylamine (67 μL, 0.38 mmol) were added to degassed DMF (3 mL) and the mixture was stirred for 18 hrs at room temperature then concentrated in vacuo. The residue was added to sat. NaHCO3(aq) (5 mL) and extracted with dichloromethane (3×3 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was chromatographed on silica gel, eluting with dichloromethane—2% methanol to give the product as a free base. This was lyophilized from HCl (aq)—acetonitrile to give the title compound as a white solid.

reactant | 4-Cyanobenzyl(1-phenylpiperidin-4-yl)amine | 0.26 mmol, 75 mg | C(#N)C1=CC=C(CNC2CCN(CC2)C2=CC=CC=C2)C=C1 | C19H21N3
reactant | lithium [3-(4-cyanobenzyl)-3H-imidazol-4-yl]acetate | 0.28 mmol, 70 mg | C(#N)C1=CC=C(CN2C=NC=C2CC(=O)[O-])C=C1.[Li+]
reactant | 1-hydroxybenzotriazole hydrate | 0.38 mmol, 52 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.52 mmol, 99 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.38 mmol, 67 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-[3-(4-cyanobenzyl)-3H-imidazol-1-yl]-N-(4-cyanobenzyl)-N-(1-phenylpiperidin-4-yl)acetamide hydrochloride | Cl.C(#N)C1=CC=C(CN2CN(C=C2)CC(=O)N(C2CCN(CC2)C2=CC=CC=C2)CC2=CC=C(C=C2)C#N)C=C1 | InChI=1S/C32H32N6O.ClH/c33-20-26-6-10-28(11-7-26)22-35-18-19-36(25-35)24-32(39)38(23-29-12-8-27(21-34)9-13-29)31-14-16-37(17-15-31)30-4-2-1-3-5-30;/h1-13,18-19,31H,14-17,22-25H2;1H
